US08222416B2
To a solution of 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (0.59 g, 1.48 mmol) in anhydrous tetrahydrofuran (30 mL) at −78° C. under nitrogen atmosphere was added a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1.0 M, 2.2 mL, 2.2 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (870 mg, 2.66 mmol) in tetrahydrofuran (5 mL) was added dropwise. The resulting mixture was stirred for an additional 1.5 h at −78° C. The reaction was quenched with water, extracted with ethyl acetate (100 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 25% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (0.60 g, 74.1%) as a light yellow solid: LC/MS m/e calcd for C28H28N2O6S2 [M+H]+ 553.67, observed 553.0.

reactant | 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 1.48 mmol, 0.59 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC(=CC2)OC)C(CC2CCCC2)=O | C21H22N2O4S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 2.66 mmol, 870 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 mmol, 1.0 M, 2.2 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 0.60 g, 74.1% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC(=CC2)OC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C28H28N2O6S2
